US04335127
A mixture of 9 parts of 2-aminobenzenecarboxamide, 12 parts of concentrated hydrochloric acid and 120 parts of absolute ethanol is stirred and refluxed for 2 hours. Then there are added 3.6 parts of [1-(3,3-diethoxypropyl)-4-piperidinyl](4-fluorophenyl) methanone and stirring at reflux is continued overnight. The reaction mixture is evaporated and the residue is stirred with water. The whole is alkalized with ammonia and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized twice from 4-methyl-2-pentanone, yielding 1.9 parts (19%) of 2-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,3-dihydro-4(1H)-quinazolinone; mp. 153.4° C.

reactant | 2-aminobenzenecarboxamide | NC1=C(C=CC=C1)C(=O)N | C7H8N2O
reactant | hydrochloric acid | Cl | ClH
reactant | [1-(3,3-diethoxypropyl)-4-piperidinyl](4-fluorophenyl) methanone | C(C)OC(CCN1CCC(CC1)C(=O)C1=CC=C(C=C1)F)OCC | C19H28FNO3
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,3-dihydro-4(1H)-quinazolinone | 19% | FC1=CC=C(C(=O)C2CCN(CC2)CCC2NC3=CC=CC=C3C(N2)=O)C=C1 | C22H24FN3O2
